US08426420B2
(ii) (S)-2-(1-Benzyl-1H-tetrazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester
To a suspension of 1.50 g (S)-2-Benzylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester and 2.91 g triphenylphosphine in 30 ml acetonitrile were added dropwise at 0° C. 2.3 ml diisopropylazodicarboxylate and after 2 minutes 1.5 ml trimethylsilylazide over a period of 20 minutes. After 30 minutes the mixture was allowed to warm to RT and stirred for 12 h. The mixture was cooled to 0° C. and 1.5 ml aqueous sodium nitrite (2.9 M) were added, after 30 minutes a solution of 2.4 g ceric ammonium nitrate in 15 ml water was added and stirred for another 20 minutes. After this time the mixture was poured into ice and extracted twice with dichloromethane. The crude product thus obtained after evaporation of the solvent was purified by flash chromatography on silica eluting with ethyl acetate/heptane gradient. Yield: 494 mg colorless foam.

reactant | (S)-2-Benzylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester | 1.50 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NCC1=CC=CC=C1)=O | C20H22N2O3
reactant | triphenylphosphine | 2.91 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 2.3 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | trimethylsilylazide | 1.5 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | sodium nitrite | 2.9 M, 1.5 ml | N(=O)[O-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 15 ml | O | H2O
product | (S)-2-(1-Benzyl-1H-tetrazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C1=NN=NN1CC1=CC=CC=C1 | C20H21N5O2
